US07678820B2
To 5-bromo-2-(2,2,2-trifluoro-1-methylethoxy)benzonitrile in a mixed solvent of toluene/THF (4:1) was added a solution of n-BuLi in n-hexane at −78° C. With passing a CO2 gas therethrough, the solution was stirred for 0.5 hour. To the reaction solution was added a 1M aqueous NaOH solution to complete the reaction, and followed by extraction with diethyl ether. The organic layer was acidified by adding 1M HCl, extracted with EtOAc, dried over anhydrous MgSO4, and concentrated. The residue was purified by silica gel chromatography (chloroform:CH3OH=97:3 to 90:10) to obtain 3-cyano-4-(2,2,2-trifluoro-1-methylethoxy)benzoic acid as a white solid.

reactant | 5-bromo-2-(2,2,2-trifluoro-1-methylethoxy)benzonitrile | BrC=1C=CC(=C(C#N)C1)OC(C(F)(F)F)C | C10H7BrF3NO
reactant | n-BuLi | [Li]CCCC
reactant | CO2 | C(=O)=O | CO2
reactant | NaOH | 1M | [OH-].[Na+]
solvent | n-hexane | CCCCCC | C6H14
solvent | toluene THF | C1(=CC=CC=C1)C.C1CCOC1
product | 3-cyano-4-(2,2,2-trifluoro-1-methylethoxy)benzoic acid | C(#N)C=1C=C(C(=O)O)C=CC1OC(C(F)(F)F)C | C11H8F3NO3
